US07786132B2
(ii) 4-(5-Benzylthiophen-2-yl)-2-chloro-pyrimidine
The title compound was prepared from 2-benzylthiophene and 2-chloropyrimidine in a manner analogous to Example 255, Step 1. MS (M+H)+ 287.

reactant | 2-benzylthiophene | C(C1=CC=CC=C1)C=1SC=CC1 | C11H10S
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
product | 4-(5-Benzylthiophen-2-yl)-2-chloro-pyrimidine | C(C1=CC=CC=C1)C1=CC=C(S1)C1=NC(=NC=C1)Cl | C15H11ClN2S
